US04551452
4-[1-(Cyclopropylcarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 6, piroxicam (3.00 g, 9.1 mmol) and cyclopropanecarboxylic acid alpha-chloroethyl ester (4.03 g, 27.2 mmol) were converted to title product, 3.51 g white foam (7.0 mmol, 87.3%) which gave 1.90 g white crystals from toluene; mp 176°-177° C.; IR (KBr) 1735, 1680 cm-1 ; 1H NMR (CDCl3) delta 0.70-0.97 (m, 4H), 1.37-1.50 (m, 1H), 1.72 (d, J=6 Hz, 3H), 3.11 (s, 3H), 6.40 (q, J=6 Hz, 1H), 7.07-7.17 (m, 1H), 7.63.7.97 (m, 5H), 8.29-8.42 (m, 2H), 9.54 (br s, 1H); precise mass calcd for C21H22N3O6S m/e (P+ +H) 444.1235, found 444.1013.

reactant | piroxicam | 9.1 mmol, 3.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | cyclopropanecarboxylic acid alpha-chloroethyl ester | 27.2 mmol, 4.03 g | ClC(C)OC(=O)C1CC1 | C6H9ClO2
product | 4-[1-(Cyclopropylcarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C1(CC1)C(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C21H21N3O6S
